US09422244B2
1.50 g (1 mol equiv.) 4,4-Dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid amide was dissolved in 30 ml methanol; 5.9 mL (10 mol equiv.) iodomethane was added and the reaction mixture was stirred at room temperature for 2 hours. Volatiles were removed under reduced pressure, and the residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness, yielding 1.53 g (94%) 4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 1.24 (s, 6H), 2.32 (s, 3H), 3.65 (s, 2H), 6.63 (s, 1H), 6.66-6.85 (br.s., 1H).

reactant | 4,4-Dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid amide | 1 mol, 1.50 g | CC1(C=NN(C1)C(N)=S)C | C6H11N3S
reactant | iodomethane | 10 mol, 5.9 mL | IC | CH3I
solvent | methanol | 30 ml | CO | CH4O
product | 4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1.53 g, 94% | CSC(=N)N1N=CC(C1)(C)C | C7H13N3S
